US07741360B2
[3-(Biphenyl-4-ylsulfanyl)-5-fluoro-2-methyl-indol-1-yl]-acetic acid
To a solution of (5-fluoro-2-methyl-indol-1-yl)-acetic acid (0.5 g) and biphenyl-4-thiol (0.19 g) in DMF (5 ml) was added iodine (0.25 g). After stirring at RT overnight the mixture was poured into water, the pH adjusted to 3 using 1M HCl and the organics extracted with EtOAc. The EtOAc extractions were combined, washed with brine, dried (MgSO4) and evaporated under reduced pressure to give crude material. Purification using RPHPLC gave the title compound as a pink solid (0.1 μg).

reactant | (5-fluoro-2-methyl-indol-1-yl)-acetic acid | 0.5 g | FC=1C=C2C=C(N(C2=CC1)CC(=O)O)C | C11H10FNO2
reactant | biphenyl-4-thiol | 0.19 g | C1(=CC=C(C=C1)S)C1=CC=CC=C1 | C12H10S
reactant | iodine | 0.25 g | II | I2
reactant | HCl | 1M | Cl | ClH
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | [3-(Biphenyl-4-ylsulfanyl)-5-fluoro-2-methyl-indol-1-yl]-acetic acid | 0.1 μg | C1(=CC=C(C=C1)SC1=C(N(C2=CC=C(C=C12)F)CC(=O)O)C)C1=CC=CC=C1 | C23H18FNO2S
